US07049444B2
N-[3-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]-3-pyridinesulfonamide
To a solution of 3-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine (Preparation 12, 220 mg, 0.809 mmol) in dichloromethane (5 ml) at room temperature was added pyridine (0.196 ml, 2.42 mmol) then dropwise over 5 minutes 3-pyridinesulfonylchloride (198 mg, 1.21 mmol). The mixture was stirred for 48 hours, concentrated in vacuo and the residue was purified by silica (10 g) column chromatography eluting with ethyl acetate then 90:10:1 ethyl acetate:methanol:ammonia solution (0.880). Product-containing fractions were combined and concentrated in vacuo to give the title compound as a pale orange oil (200 mg, 60%).

reactant | 3-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine | 0.809 mmol, 220 mg | C(CCCCC)N1CC2C(C2C1)(C)C=1C=C(C=CC1)N | C18H28N2
reactant | pyridine | 2.42 mmol, 0.196 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-pyridinesulfonylchloride | 1.21 mmol, 198 mg | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[3-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]-3-pyridinesulfonamide | 200 mg, 60% | C(CCCCC)N1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C=1C=NC=CC1 | C23H31N3O2S
